data/rdb19/train.csv
rxn,smiles,ea
5421,[C:17]([C:18]([C:19]([H:20])[N:21]([C:22](=[O:23])[H:30])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:17]([C:18]([C:19]([H:20])=[N:21][C:22](=[O:23])[H:30])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1](=[C:2]([C:3]1([H:29])[C:4]([H:12])[C:5]([H:13])=[C:6]([H:14])[C:7]([H:15])=[C:8]1[H:16])[H:11])([H:9])[H:10],49.51857233571354
2750,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21]([C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34])([H:30])([H:31])[H:32]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[C:24]1([C:22]([C:21]([C:20]([H:30])([H:31])[H:32])([H:33])[H:34])([C:23]([H:36])([H:37])[H:38])[H:35])[C:25]([H:39])[C:26]([H:40])=[C:27]([H:41])[C:28]([H:42])=[C:29]1[H:43])([H:13])[H:14])([H:10])([H:11])[H:12],27.790329594456125
1322,[C:10]([C:11]([C:12]([H:13])[H:14])([C:15](=[O:16])[O:17][H:22])[H:21])([H:18])([H:19])[H:20].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[H:9][C:12]([C:11]([C:10]([H:18])([H:19])[H:20])([C:15](=[O:16])[O:17][H:22])[H:21])([H:13])[H:14].[O:1]([C:2](=[O:3])[C:4](=[C:5][H:8])[H:7])[H:6],25.531061153917108
1053,[C:14]([C:15]([C:16]([C:17]([H:30])([H:31])[H:32])([c:18]1[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]1[H:37])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:14]([C:15]([C:16]([C:17]([H:30])([H:31])[H:32])([c:18]1[c:19][c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]1[H:37])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])([H:5])[H:33])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],25.31087118107825
4762,[C:1]([H:2])([H:3])[H:4].[C:5]([C:6]([C:7]([C:8]([H:18])([H:19])[H:20])([N:9]([C:10](=[O:11])[H:22])[H:21])[H:17])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:1]([H:2])([H:3])([H:4])[H:14].[C:5]([C:6]([C:7]([C:8]([H:18])([H:19])[H:20])([N:9]([C:10](=[O:11])[H:22])[H:21])[H:17])([H:15])[H:16])([H:12])[H:13],20.434691304602893
3843,[C:13]([C:14]([C:15]([C:16]([H:26])([H:27])[H:28])[C:17](=[O:18])[O:19][C:20]([H:29])([H:30])[H:31])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([H:5])([H:6])[H:7].[C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])([H:9])[C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([H:24])[H:25])([C:16]([H:26])([H:27])[H:28])[C:17](=[O:18])[O:19][C:20]([H:29])([H:30])[H:31],64.20036606991198
1336,[C:10]([C:11]([C:12]([H:13])[H:14])([C:15](=[O:16])[N:17]([H:22])[H:23])[H:21])([H:18])([H:19])[H:20].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])([H:9])[C:12]([C:11]([C:10]([H:18])([H:19])[H:20])([C:15](=[O:16])[N:17]([H:22])[H:23])[H:21])([H:13])[H:14])[H:7])[H:6],8.154669497336727
2635,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21]([C:22]([C:23]([H:33])([H:34])[H:35])([N:24]([C:25](=[O:26])[H:37])[H:36])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])([H:10])[C:23]([H:33])([H:34])[H:35])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21]([C:22]([N:24]([C:25](=[O:26])[H:37])[H:36])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29],53.5936863180832
2011,[C:11]([C:12]([C:13]([C:14]([H:24])([H:25])[H:26])([C:15]([H:16])[H:17])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2]([O:3])([C:4](=[C:5]([H:9])[H:10])[H:8])[C:15]([C:13]([C:12]([C:11]([H:18])([H:19])[H:20])([H:21])[H:22])([C:14]([H:24])([H:25])[H:26])[H:23])([H:16])[H:17])([H:6])[H:7],29.26683939126088
3587,[C:17]([O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])=[C:5]([H:6])[H:7])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:19]([O:18][C:17]([H:21])([H:22])[H:23])([C:20]([H:25])[H:26])[H:24],39.56822325882968
3754,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:24])[H:25].[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[H:23])([H:10])[H:11])([H:7])([H:8])[H:9],21.742882814025503
